US07081454B2
2-(4,6-Dichloro-pyrimidin-5-yl)-6-imidazol-1-yl-4-methyl-1H-benzimidazole:
To a solution of 5-imidazol-1-yl-3-methyl-benzene-1,2-diamine (180 mg, 0.96 mmol) in methanol (4 mL) was added a solution of 4,6-dichloro-pyrimidine-5-carbaldehyde (183 mg, 0.96 mmol) in methanol (1 mL). The reaction mixture was stirred at room temperature for 14 h. After concentration, the residue was purified by flash column chromatography (5% methanol/CH2Cl2) to yield the title compound (180 mg, 55%). LCMS (M+H)+ m/z 344 (t=1.31 min.).

reactant | 5-imidazol-1-yl-3-methyl-benzene-1,2-diamine | 0.96 mmol, 180 mg | N1(C=NC=C1)C1=CC(=C(C(=C1)N)N)C | C10H12N4
reactant | 4,6-dichloro-pyrimidine-5-carbaldehyde | 0.96 mmol, 183 mg | ClC1=NC=NC(=C1C=O)Cl | C5H2Cl2N2O
solvent | methanol | 4 mL | CO | CH4O
solvent | methanol | 1 mL | CO | CH4O
product | 2-(4,6-Dichloro-pyrimidin-5-yl)-6-imidazol-1-yl-4-methyl-1H-benzimidazole | 180 mg, 55% | ClC1=NC=NC(=C1C1=NC2=C(N1)C=C(C=C2C)N2C=NC=C2)Cl | C15H10Cl2N6
